US06911463B2
Trifluoro-methanesulfonic acid 3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl ester (200 mg, 0.46 mmol), methyl acrylate (80 mg, 0.92 mmol) and triethylamine (0.40 mL, 3.0 mmol) is stirred in dimethylformamide (2.0 mL) at room temperature for 30 minutes. Dichlorobis(triphenylphosphine)palladium (31 mg, 0.045 mmol) is added, the reaction mixture is heated to 90° C. and allowed to stir overnight. The reaction is cooled to room temperature, poured into a separatory funnel containing ethyl acetate and brine (50 mL each) and the aqeous layer is extracted with ethyl acetate (50 mL). The combined organic layers are washed with brine, dried (Na2SO4) and evaporated. The residue is purified using silica gel chromatography (20% ethyl acetate/hexane) to give 140 mg of 3-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylic acid methyl ester (82%). FDMS m/e=372.2 (M++1). The title compound is prepared from 3-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylic acid methyl ester as described for the alternate preparation of Amine 6 (82%). FDMS m/e=277.2 (M++1).

reactant | Trifluoro-methanesulfonic acid 3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl ester | 0.46 mmol, 200 mg | C(C)(C)(C)OC(=O)NC(CC1=CNC2=C(C=CC=C12)OS(=O)(=O)C(F)(F)F)(C)C | C18H23F3N2O5S
reactant | methyl acrylate | 0.92 mmol, 80 mg | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 3.0 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.045 mmol, 31 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylic acid methyl ester | 140 mg, 82% | COC(C=CC=1C=CC=C2C(=CNC12)CC(C)(C)NC(=O)OC(C)(C)C)=O | C21H28N2O4
